US08809369B2
A mixture of 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (200 mg, 0.48 mmol), 1-3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (130 mg, 0.72 mmol), 4-dimethylaminopyridine (88 mg, 0.72 mmol), cyclopropane sulfonic acid amide (170 mg, 1.44 mmol) in dichloromethane (20 mL) was refluxed for 12 h. Removal of the solvent to afford the oil residue. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% formic acid in water) afforded cyclopropanesulfonic acid {2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide (50 mg, 20%) as a light yellow solid: MS (ESI) M+1=518.3.

reactant | 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.48 mmol, 200 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C27H30N2O2
reactant | cyclopropane sulfonic acid amide | 1.44 mmol, 170 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
catalyst | 4-dimethylaminopyridine | 0.72 mmol, 88 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | cyclopropanesulfonic acid {2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide | 50 mg, 20% | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)NS(=O)(=O)C1CC1 | C30H35N3O3S
